US07202383B2
Methyl 5-(4-Acetoxy-3-methoxyphenyl)-penta-2E,4E-dienoate
To a solution of 880 mg (4.0 mmol) of 4-acetoxy-3-methoxycinnamaldehyde in 100 mL of benzene, 2000 mg (6.0 mmol) of methyl (triphenylphosphoranilydene)acetate was added. The mixture was stirred at 80° C. for 4 h and passed through silica gel (eluent ethyl acetate-hexane, 1:1) to remove the excess of the Wittig reagent.

reactant | 4-acetoxy-3-methoxycinnamaldehyde | 4.0 mmol, 880 mg | C(C)(=O)OC1=C(C=C(C=CC=O)C=C1)OC | C12H12O4
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | Methyl 5-(4-Acetoxy-3-methoxyphenyl)-penta-2E,4E-dienoate | C(C)(=O)OC1=C(C=C(C=C1)/C=C/C=C/C(=O)OC)OC | C15H16O5
